US05480899
Synthesis of 3-(4-chlorophenyl)-2-oxooxazolidin-4-ylmethyl methanesulfonate
Methanesulfonyl chloride (3.0 g) was added dropwise to a dichloromethane (50 ml) solution of 5.30 g of 3-(4-chlorophenyl)-2-oxooxazolidin-4-ylmethyl alcohol obtained in Reference Example 17 and 8.5 ml of triethylamine with ice-cooling, and the mixture was stirred at the same temperature for 2 hours. The reaction mixture was washed with water, dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and purified by chloroform-ethanol gradient elution to give 6.50 g of the title compound (yield 91%).

reactant | Methanesulfonyl chloride | 3.0 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | 3-(4-chlorophenyl)-2-oxooxazolidin-4-ylmethyl alcohol | 5.30 g | ClC1=CC=C(C=C1)N1C(OCC1CO)=O | C10H10ClNO3
solvent | triethylamine | 8.5 ml | C(C)N(CC)CC | C6H15N
product | 3-(4-chlorophenyl)-2-oxooxazolidin-4-ylmethyl methanesulfonate | 6.50 g, yield 91% | CS(=O)(=O)OCC1N(C(OC1)=O)C1=CC=C(C=C1)Cl | C11H12ClNO5S
